US04146717
To a solution of 3.13 g of 1-(2-pyridylmethyl)-4-phenyl-2(1H)-quinazolinone in 10 ml of concentrated sulfuric acid was added dropwise a solution of 1 g of potassium nitrate in 3 ml of concentrated sulfuric acid with cooling by an ice bath. The resulting mixture was stirred at room temperature for 3 hours and then poured onto cracked ice. The precipitate was collected by filtration, washed successively with water and ammonia water and dried to give 1-(2-pyridylmethyl)-4-phenyl-6-nitro-2(1H)-quinazolinone. Recrystallization from chloroform gave colorless fine crystals, m.p. 175°-176° C.

reactant | 1-(2-pyridylmethyl)-4-phenyl-2(1H)-quinazolinone | 3.13 g | N1=C(C=CC=C1)CN1C(N=C(C2=CC=CC=C12)C1=CC=CC=C1)=O | C20H15N3O
reactant | potassium nitrate | 1 g | [N+](=O)([O-])[O-].[K+]
solvent | sulfuric acid | 10 ml | S(O)(O)(=O)=O | H2O4S
solvent | sulfuric acid | 3 ml | S(O)(O)(=O)=O | H2O4S
product | 1-(2-pyridylmethyl)-4-phenyl-6-nitro-2(1H)-quinazolinone | N1=C(C=CC=C1)CN1C(N=C(C2=CC(=CC=C12)[N+](=O)[O-])C1=CC=CC=C1)=O | C20H14N4O3
